US07153854B2
To a solution of 4-[(5-ethyl-1H-pyrrol-2-yl)carbonyl]-benzonitrile (12.5 g) in N,N-dimethylformamide (63 mL) was added 60% sodium hydride in oil (2.68 g) in an ice-water bath under N2. After 30 minutes, to the mixture was added 1-(aminooxy)-2,4-dinitrobenzene (13.3 g). After 2 hours, the mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water (100 mL) 3 times, 1N sodium hydroxide (100 mL), and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by flash silica gel chromatography (silica gel, 500 mL) eluted with hexane-chloroform=1-2, 1-5, and 1-10 followed by triturated with isopropyl ether to give 4-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile (8.1 g, 60.7%) as an yellow solid. The mixed fraction and the mother layer (7 g) were repurified by flash silica gel chromatography (silica gel, 200 mL) eluted with hexane-chloroform=2-1 and 1-1 followed by triturated with isopropyl ether to give 4-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile (2.0 g, 15%) as a pale yellow solid.

reactant | 4-[(5-ethyl-1H-pyrrol-2-yl)carbonyl]-benzonitrile | 12.5 g | C(C)C1=CC=C(N1)C(=O)C1=CC=C(C#N)C=C1 | C14H12N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-(aminooxy)-2,4-dinitrobenzene | 13.3 g | NOC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H5N3O5
solvent | N,N-dimethylformamide | 63 mL | CN(C=O)C | C3H7NO
product | 4-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile | 8.1 g, 60.7% | NN1C(=CC=C1CC)C(=O)C1=CC=C(C#N)C=C1 | C14H13N3O
